US07381719B2
(4-Acetyl-phenoxy)nicotinamide
4-Hydroxyacetophenone (1 equiv), 6-chloronicotinamide (1 equiv) and K2CO3 (1.4 equiv) in anhydrous DMF (0.4 M) was heated at 150° C. under nitrogen during 2.5 days. After cooling down to room temperature, toluene was added and solvents were evaporated. The residue was partitioned in water/EtOAc. The aqueous layer was thoroughly extracted with EtOAc. The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum (toluene was added to aid DMF evaporation). The crude mixture was purified by flash chromatography using EtOAc/CH2Cl2/2 M NH3 in MeOH (12:7:1) as eluent in 20% yield.

reactant | 4-Hydroxyacetophenone | 1 equiv | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | 6-chloronicotinamide | 1 equiv | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 1.4 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 0.4 M | CN(C)C=O | C3H7NO
product | (4-Acetyl-phenoxy)nicotinamide | 20% yield | C(C)(=O)C1=CC=C(OC2=C(C(=O)N)C=CC=N2)C=C1 | C14H12N2O3
